US04024128
By the reaction of [(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]carbamic acid ethyl ester with cyclopentylmethylamine in a manner analogous to that described in Example 12, there is obtained 1-cyclopentylmethyl-3-[(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-sulfonyl]urea, m.p. 165°-166° C.

reactant | [(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]carbamic acid ethyl ester | C(C)OC(NS(=O)(=O)C1=CC2=C(CCN(CC2)C(N(C)C)=O)C=C1)=O | C16H23N3O5S
reactant | cyclopentylmethylamine | C1(CCCC1)CN | C6H13N
product | 1-cyclopentylmethyl-3-[(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-sulfonyl]urea | C1(CCCC1)CNC(=O)NS(=O)(=O)C1=CC2=C(CCN(CC2)C(N(C)C)=O)C=C1 | C20H30N4O4S
